US07384934B2
(S)-6-Fluoro-10-[4-methyl-3-(2-methylsulfanyl-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride
Heat a mixture of 6-fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride salt (0.135 g, 0.476 mmol), (S)-1-methyl-2-(2-methylsulfanyl-ethyl)-piperazine (0.166 g, 0.95 mmol) and diisopropyl ethylamine (0.083 mL, 0.476 mmol) in DMSO (0.2 mL) and toluene (0.8 mL) at 110° C. for 46 hours. Dilute the reaction mixture with ethyl acetate and 0.1N sodium hydroxide solution. The ethyl acetate extract gives 0.196 g. of the crude product. Silica gel chromatography, eluting with methylene chloride:methanol (100:5), gives 0.081 g of the title compound as an orange oil. The dihydrochloride salt precipitates in ethyl acetate as an orange solid: mp 194° C.; mass spectrum (ion spray): m/z=405 (M+1).

reactant | 6-fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride salt | 0.476 mmol, 0.135 g | Cl.FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N)C)C1
reactant | (S)-1-methyl-2-(2-methylsulfanyl-ethyl)-piperazine | 0.95 mmol, 0.166 g | CN1[C@H](CNCC1)CCSC | C8H18N2S
reactant | diisopropyl ethylamine | 0.476 mmol, 0.083 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
solvent | toluene | 0.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 0.1N | [OH-].[Na+]
product | (S)-6-Fluoro-10-[4-methyl-3-(2-methylsulfanyl-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | 0.081 g | Cl.Cl.FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCSC)C)C1 | InChI=1S/C20H25FN4S2.2ClH/c1-13-10-16-19(25-8-7-24(2)15(12-25)6-9-26-3)22-17-5-4-14(21)11-18(17)23-20(16)27-13;;/h4-5,10-11,15,23H,6-9,12H2,1-3H3;2*1H/t15-;;/m0../s1
